US04359420
A mixture of 30.0 g (177 mmol) of 2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione and 17.3 g (195 mmol) of sarcosine in 100 ml of dimethyl sulphoxide is stirred at 110° C. for 1.5 hours. The dark brown coloured solution is poured into ca 600 ml of ice/water. The separated oil is taken up in ca 200 ml of ethyl acetate and the aqueous phase is evaporated in vacuo until crystallisation begins. The mixture is cooled in an ice-bath for ca 3 hours and the separated material is filtered off under suction and washed with a small amount of water. After drying on a rotary evaporator, there is obtained 3,4-dihydro-4-methyl-2H-thieno[3,2-e][1,4]diazepine-2,5(1H)-dione of melting point 270°-272° C.

reactant | 2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione | 177 mmol, 30.0 g | N1C(OC(C2=C1C=CS2)=O)=O | C6H3NO3S
reactant | sarcosine | 195 mmol, 17.3 g | N(C)CC(=O)O | C3H7NO2
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | ca 200 ml | C(C)(=O)OCC | C4H8O2
product | 3,4-dihydro-4-methyl-2H-thieno[3,2-e][1,4]diazepine-2,5(1H)-dione | CN1CC(NC2=C(C1=O)SC=C2)=O | C8H8N2O2S
